US07550598B2
(Z)-6-(2-(3-methyl-5-oxo-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)nicotinic Acid
The title compound was prepared from (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one and 6-mercaptonicotinic acid using the procedure described in Example 6. 1H NMR (400 MHz, DMSO-D6) δ ppm 2.49 (s, 3H) 7.30 (s, 1H) 7.50 (t, J=7.58 Hz, 1H) 7.72-7.82 (m, 1H) 7.99 (t, J=9.09 Hz, 2H) 8.11 (dd, J=8.34, 1.77 Hz, 1H) 8.17 (s, 1H) 8.88 (d, J=1.52 Hz, 1H); ESI-MS: m/z calc'd for C19H14N4O3S 378.08. found 379.2 (M+H)+.

reactant | (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one | ClC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)C | C13H10ClN3O
reactant | 6-mercaptonicotinic acid | SC1=NC=C(C(=O)O)C=C1 | C6H5NO2S
product | (Z)-6-(2-(3-methyl-5-oxo-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)nicotinic Acid | CC/1=NNC(\C1=C\1/NC2=CC=CC=C2C(=C1)SC1=NC=C(C(=O)O)C=C1)=O | C19H14N4O3S
